US07034018B2
2-[(2-Methoxyphenyl)-pyrrolidin-1-yl-methyl]-1-phenyl-1H-pyrrole
The preparation was carried out in accordance with general synthesis instructions 4 from 1-phenyl-1H-pyrrole and 1-(2-methoxy-benzylidene)pyrrolidinium chloride.

reactant | 1-phenyl-1H-pyrrole | C1(=CC=CC=C1)N1C=CC=C1 | C10H9N
reactant | 1-(2-methoxy-benzylidene)pyrrolidinium chloride | [Cl-].COC1=C(C=[N+]2CCCC2)C=CC=C1
product | 2-[(2-Methoxyphenyl)-pyrrolidin-1-yl-methyl]-1-phenyl-1H-pyrrole | COC1=C(C=CC=C1)C(C=1N(C=CC1)C1=CC=CC=C1)N1CCCC1 | C22H24N2O
